US08242104B2
Alternatively, a degassed solution of 8-bromo-2-(4-isopropyl-4H-[1,2,4]triazol-3-yl)-4,5-dihydro-2H-6-oxa-1,2-diaza-benzo[e]azulene (122 mg, 0.326 mmol) in IMS (10 mL) was added 10% Pd/C (15 mg), the reaction mixture stirred under an atmosphere of hydrogen for 1 h before the reaction mixture was filtered and the filtrate concentrated in vacuo. The resultant residue was dissolved in DCM and the solution washed with water, the organic layer dried (Na2SO4), filtered and concentrated in vacuo to give a residue. The residue was dissolved in acetonitrile and water and the solution freeze dried to give 2-(4-Isopropyl-4H-[1,2,4]triazol-3-yl)-4,5-dihydro-2H-6-oxa-1,2-diaza-benzo[e]azulene as a white solid (54 mg, 56%). 1H NMR (400 MHz, CDCl3): δ 8.27-8.23 (m, 2H); 8.12 (t, J=1.02 Hz, 1H); 7.30-7.24 (m, 1H); 7.14-7.06 (m, 2H); 5.38-5.29 (m, 1H); 4.36 (t, J=5.10 Hz, 2H); 3.16 (td, J=5.10, 1.06 Hz, 2H); 1.63-1.54 (d, J=6.59 Hz, 6H). LCMS: RT=10.29 min, M+H+=296

reactant | 8-bromo-2-(4-isopropyl-4H-[1,2,4]triazol-3-yl)-4,5-dihydro-2H-6-oxa-1,2-diaza-benzo[e]azulene | 0.326 mmol, 122 mg | BrC1=CC2=C(C3=NN(C=C3CCO2)C2=NN=CN2C(C)C)C=C1 | C16H16BrN5O
solvent | acetonitrile | C(C)#N | C2H3N
catalyst | Pd/C | 15 mg | [Pd] | Pd
product | 2-(4-Isopropyl-4H-[1,2,4]triazol-3-yl)-4,5-dihydro-2H-6-oxa-1,2-diaza-benzo[e]azulene | 54 mg, 56% | C(C)(C)N1C(=NN=C1)N1C=C2CCOC3=C(C2=N1)C=CC=C3 | C16H17N5O
